US06528525B1
2-Butyl-3-[4-[2-(2-isopropoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-98 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(2-isopropoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate (170 mg), which is the product of Example 53, was reacted with aqueous sodium hydroxide solution (1N, 0.75 ml) and the reaction mixture was treated to give the title compound (137 mg) as colorless crystals.

reactant | ethyl 2-butyl-3-[4-[2-(2-isopropoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate | 170 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC(C)C | C26H36N2O5
reactant | sodium hydroxide | 1N, 0.75 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(2-isopropoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid | 137 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC(C)C | C24H32N2O5
